US07662973B2
Preparation of 5-(Carboxymethyl)-1,2,3,3-tetramethyl-3H-indolium Iodide (1)
Methyl iodide (3 ml, 48.19 mmol) was added to a solution of 2,3,3-trimethyl-3H-indol-5-yl-acetic acid (2.5 g, 11.52 mmol) in sulfolan (15 ml). The reaction was heated at 48° C. for 18 hours, then cooled to room temperature. The crude reaction mixture was added dropwise to an excess of diethyl ether and the precipitate was collected by filtration and dried in vacuo to obtain the product as a beige solid (3.27 g, 79% yield). 1H NMR (d6-DMSO): δH 7.85 (d, 1H), 7.70 (s, 1H), 7.50 (d, 1H), 3.95 (s, 3H), 3.75 (s, 2H), 2.75 (s, 3H), 1.50 (s, 6H). MALDI-TOF, m/z 232 (M+=232 for C14H18NO2).

reactant | Methyl iodide | 48.19 mmol, 3 ml | CI | CH3I
reactant | 2,3,3-trimethyl-3H-indol-5-yl-acetic acid | 11.52 mmol, 2.5 g | CC1=NC2=CC=C(C=C2C1(C)C)CC(=O)O | C13H15NO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | sulfolan | 15 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-(Carboxymethyl)-1,2,3,3-tetramethyl-3H-indolium Iodide | 3.27 g, 79% yield | [I-].C(=O)(O)CC=1C=C2C(C(=[N+](C2=CC1)C)C)(C)C | InChI=1S/C14H17NO2.HI/c1-9-14(2,3)11-7-10(8-13(16)17)5-6-12(11)15(9)4;/h5-7H,8H2,1-4H3;1H
